US07705034B2
3-Hydroxy-2-[(6-methoxy-naphthalen-2-yl)-phenyl-methyl]-4-methyl-4-phenyl-cyclobut-2-enone
Using general procedure D, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with (6-methoxy-naphthalen-2-yl)-phenyl-methanol to give the title compound as a colorless solid. MS: 419.3 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | (6-methoxy-naphthalen-2-yl)-phenyl-methanol | COC=1C=C2C=CC(=CC2=CC1)C(O)C1=CC=CC=C1 | C18H16O2
product | 3-Hydroxy-2-[(6-methoxy-naphthalen-2-yl)-phenyl-methyl]-4-methyl-4-phenyl-cyclobut-2-enone | OC1=C(C(C1(C1=CC=CC=C1)C)=O)C(C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)OC | C29H24O3
